### PR TITLE
Update mathlib to 4.12.0-rc1

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
@fpvandoorn I can now report that the `Nat.reducePow` bug that was causing PANICs in builds of this repo has been fixed.

### CODE REVIEW

File: Carleson/HardyLittlewood.lean [hunk 1]
```diff
@@ -60,8 +60,8 @@ private lemma P'_of_P [BorelSpace X] [ProperSpace X] [IsFiniteMeasureOnCompacts
       (coe_nnnorm_ae_le_eLpNormEssSup u μ).mono (by tauto)
     apply lt_of_le_of_lt (MeasureTheory.setLIntegral_mono_ae' measurableSet_ball hfg)
     rw [MeasureTheory.setLIntegral_const (ball c r) (eLpNormEssSup u μ)]
-    refine ENNReal.mul_lt_top ?_ (measure_ball_ne_top c r)
-    exact eLpNorm_exponent_top (f := u) ▸ hu.eLpNorm_lt_top |>.ne
+    refine ENNReal.mul_lt_top ?_ measure_ball_lt_top
```
Comment (grunweg) [inline Carleson/HardyLittlewood.lean:63]: These are very mild golfs: seem innocuous to me.

**Review by grunweg — APPROVED** [review]
Some small changes which are scope creep. That said, these changes are also fine. LGTM.

**Comment by fpvandoorn** [comment]
Thanks! Next time please update with `lake update -Kenv=dev` or `scripts/update_mathlib.sh`.
